US08440652B2
To a room temperature solution of 7-hydroxy-2,3,4,5-tetrahydro-1H-benzo[c]azepin-1-one (2.3 g, 12.9 mmol) in THF (100 mL) was added NaH (671 mg, 16.7 mmol), followed by 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide (5.98 g, 16.77 mmol). The reaction was stirred at room temperature for 2 h, then quenched with sat. aq. NH4Cl and extracted with EtOAc (3×50 mL). The combined organics were washed with brine, dried over Na2SO4 and concentrated. The crude material was purified by flash chromatography over silica gel (20% EtOAc/hexane eluent) to provide 1-oxo-2,3,4,5-tetrahydro-1H-benzo[c]azepin-7-yl trifluoromethanesulfonate (12.9 mmol, 77% yield) MS (EI) m/z=310 [M+1]+.

reactant | 7-hydroxy-2,3,4,5-tetrahydro-1H-benzo[c]azepin-1-one | 12.9 mmol, 2.3 g | OC1=CC2=C(C(NCCC2)=O)C=C1 | C10H11NO2
reactant | NaH | 16.7 mmol, 671 mg | [H-].[Na+]
reactant | 1,1,1-trifluoro-N-phenyl-N-((trifluoromethyl)sulfonyl)methanesulfonamide | 16.77 mmol, 5.98 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-oxo-2,3,4,5-tetrahydro-1H-benzo[c]azepin-7-yl trifluoromethanesulfonate | 12.9 mmol, 77% yield | FC(S(=O)(=O)OC1=CC2=C(C(NCCC2)=O)C=C1)(F)F | C11H10F3NO4S
